US08871934B2
4′-chloro-2′-methyl-biphenyl-2-carboxylic acid
A mixture of ethyl 4′-chloro-2′-methyl-biphenyl-2-carboxylate (27.10 g), ethanol (60 ml) and 1N aqueous sodium hydroxide solution (120 ml) was stirred at 100° C. for 2 hr. To the reaction mixture was added 8N aqueous sodium hydroxide m solution (10 ml), and the mixture was further stirred at 100° C. for 1 hr. The reaction mixture was cooled to room temperature. The insoluble material was filtered off, and washed with 33 v/v % ethanol-water (100 ml). The filtrate was adjusted to pH 2 with formic acid (23 ml) and the mixture was stirred at room temperature for 1 hr. This suspension was filtered, and the obtained solid was air-dried for 1 hr and dried under reduced pressure at 60° C. to give the title compound (22.082 g, 91%).

reactant | ethyl 4′-chloro-2′-methyl-biphenyl-2-carboxylate | 27.10 g | ClC1=CC(=C(C=C1)C=1C(=CC=CC1)C(=O)OCC)C | C16H15ClO2
reactant | sodium hydroxide | 1N, 120 ml | [OH-].[Na+]
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4′-chloro-2′-methyl-biphenyl-2-carboxylic acid | 22.082 g, 91% | ClC1=CC(=C(C=C1)C=1C(=CC=CC1)C(=O)O)C | C14H11ClO2
